US06949542B2
7-(2-Methoxy-ethoxy)-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-(2-methoxy-ethoxy)-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M222) (340 mg, 0.58 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (196 mg, 72%).

reactant | (5-(2-methoxy-ethoxy)-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.58 mmol, 340 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C30H32F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(2-Methoxy-ethoxy)-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | COCCOC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C)=O)C=C1C(F)(F)F | C25H22F3N3O3
